US07750002B2
To a solution of 4-(2-methoxy-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester (500 mg) in DCM (5 mL) and triethylamine (540 μL) was added trifluoroacetic anhydride (548 μL). The reaction mixture was stirred at room temperature overnight, diluted with DCM, washed with brine, dried (MgSO4) and the solvent removed in vacuo. The residue was purified using flash chromatography to yield 4-[(2-methoxy-ethyl)-(2,2,2-trifluoro-acetyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester as an oil (685 mg).

reactant | 4-(2-methoxy-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NCCOC | C13H26N2O3
reactant | trifluoroacetic anhydride | 548 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 540 μL | C(C)N(CC)CC | C6H15N
product | 4-[(2-methoxy-ethyl)-(2,2,2-trifluoro-acetyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 685 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(C(F)(F)F)=O)CCOC | C15H25F3N2O4
